US07572805B2
Part A. Methyl 2-formyl-6-(trifluoromethyl)benzoate
To a solution of (±)-3-hydroxy-7-(trifluoromethyl)isobenzofuran-1 (3H)-one, from Example 1, Part B, (3.31 g, 15.2 mmol) in 20 mL of DMF was added potassium carbonate (4.2 g, 30.4 mmol) followed by iodomethane (1.04 mL, 16.7 mmol). The resulting mixture was allowed to stir at ambient temperature for 18 h. The reaction was cooled to 0° C. and carefully acidified with 6N HCl, diluted with water and extracted with EtOAc. The organics were washed with sat'd aq NaHCO3 and brine, dried (MgSO4), filtered through a pad of silica gel and concentrated in vacuo to afford 3.1 g (89%) of the title compound which was used without purification. 1H NMR (CDCl3): δ 10.05 (s, 1H), 8.12 (d, 1H, J=7.7 Hz), 7.95 (d, 1H, J=7.7 Hz), 7.76 (t, 1H, J=7.7 Hz), 4.02 (s, 3H).

reactant | (±)-3-hydroxy-7-(trifluoromethyl)isobenzofuran-1 (3H)-one | OC1OC(C2=C(C=CC=C12)C(F)(F)F)=O | C9H5F3O3
reactant | potassium carbonate | 30.4 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 16.7 mmol, 1.04 mL | IC | CH3I
reactant | HCl | 6N | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 2-formyl-6-(trifluoromethyl)benzoate | 3.1 g, 89% | C(=O)C1=C(C(=O)OC)C(=CC=C1)C(F)(F)F | C10H7F3O3
